US07345049B2
Methanol solution (4.7 mL) of sodium methoxide (197 mg) was added dropwise into the mixture of methyl 3-bromomethyl-2-nitrobenzoate (1 g) and methanol (7 mL) under heating and refluxing. Two minutes later, the mixture was cooled down with ice and 1.82 mL of 4M hydrogen chloride dioxane solution was added dropwise thereto. After removing the solvent, diethylether and water were added and the organic layer thereof was dried over sodium sulfate. After removing the solvent, the obtained residue was purified with silica gel column chromatography to obtain 621 mg of methyl 3-methoxymethyl-2-nitrobenzoate.

reactant | sodium methoxide | 197 mg | C[O-].[Na+]
reactant | methyl 3-bromomethyl-2-nitrobenzoate | 1 g | BrCC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C9H8BrNO4
reactant | hydrogen chloride dioxane | 4M, 1.82 mL | O1CCOCC1.Cl
solvent | methanol | 7 mL | CO | CH4O
solvent | Methanol | 4.7 mL | CO | CH4O
product | methyl 3-methoxymethyl-2-nitrobenzoate | 621 mg | COCC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C10H11NO5
